US08604061B2
In analogy to example 1b (S)-2-amino-4-(4-chloro-phenyl)-hexan-1-ol was reacted with cyanogen bromide to give (S)-4-[2-(4-chloro-phenyl)-butyl]-4,5-dihydro-oxazol-2-ylamine (mainly one epimer). Colourless oil. MS (ISP): 255.2 ([{37Cl}M+H]+), 253.2 ([{35Cl}M+H]+).

reactant | (S)-2-amino-4-(4-chloro-phenyl)-hexan-1-ol | N[C@H](CO)CC(CC)C1=CC=C(C=C1)Cl | C12H18ClNO
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-[2-(4-chloro-phenyl)-butyl]-4,5-dihydro-oxazol-2-ylamine | ClC1=CC=C(C=C1)C(C[C@@H]1N=C(OC1)N)CC | C13H17ClN2O
